US07405299B2
C. Preparation of 2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid
Add sodium ethoxide (90 g, 1.32 mol), toluene (5 L) and 3-(6-methyl-pyridin-2-yl)-3-(2-oxo-pyrrolidin-1-ylimino)-propionic acid ethyl ester (Preparation 1, Part B; 201 g, 0.661 mol) to a 22 L flask equipped with a mechanical stirrer, nitrogen inlet and a reflux condenser. Heat the mixture at 100° C. for 24 h then cool to room temperature. Add water (4 L) and adjust the pH to 4 with concentrated hydrochloric acid. Separate the organic layer and extract the aqueous portion with 10% isopropyl alcohol in chloroform is (3×4.5 L). Combine the organic layers, dry (sodium sulfate), filter, and concentrate in vacuo to yield the subtitled product (138 g, 86% yield) as a yellow solid in 78% purity by HPLC analysis. MS ES+ m/e 244 (M+1).

reactant | sodium ethoxide | 1.32 mol, 90 g | [O-]CC.[Na+]
reactant | toluene | 5 L | C1(=CC=CC=C1)C | C7H8
reactant | 3-(6-methyl-pyridin-2-yl)-3-(2-oxo-pyrrolidin-1-ylimino)-propionic acid ethyl ester | 0.661 mol, 201 g | C(C)OC(CC(=NN1C(CCC1)=O)C1=NC(=CC=C1)C)=O | C15H19N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 4 L | O | H2O
product | 2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid | 138 g, 86% yield | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C(=O)O | C13H13N3O2
